US20010020095A1
A solution/suspension of diethyl 4-(2-propyl)oxyindan-2,2-dicarboxylate (11.5 g) in potassium hydroxide solution (50 ml, 3 M) was heated at reflux for 18 hours. The solution was cooled to room temperature and was extracted with ether. The aqueous was acidified to pH<1 with aqueous hydrochloric acid (3 M) and was extracted with ethyl acetate. The standard workup afforded 4-(2-propyl)oxyindan-2,2-dicarboxylic acid (8.5 g) as a brown solid, which was used without further purification.

reactant | diethyl 4-(2-propyl)oxyindan-2,2-dicarboxylate | 11.5 g | CC(C)OC1=C2CC(CC2=CC=C1)(C(=O)OCC)C(=O)OCC | C18H24O5
solvent | potassium hydroxide | 3 M, 50 ml | [OH-].[K+]
product | 4-(2-propyl)oxyindan-2,2-dicarboxylic acid | 8.5 g | CC(C)OC1=C2CC(CC2=CC=C1)(C(=O)O)C(=O)O | C14H16O5
